US07199147B2
A 20%-aqueous sulfuric acid solution (4 ml) was added dropwise to a solution of 4-[(2,2-dimethylpropanoyl)amino]-2-methoxy-3-methylphenyl methanesulfonate (223 mg, 0.707 mmol) in n-butanol (2 ml) at room temperature, and the resulting mixture was heated to 100° C. After 14 hours, the reaction solution was poured onto ice (50 ml) and adjusted to pH 11 with an aqueous sodium hydroxide solution. The resulting mixture was extracted with ethyl acetate (50 ml×3) and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure, and to a solution of the resulting residue in ethyl acetate (5 ml) were added pyridine (0.069 ml, 0.848 mmol) and acetic anhydride (0.073 ml, 0.778 mmol) at room temperature. The resulting mixture was heated to 60° C. After 2 hours, the reaction solution was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate→chloroform/ethyl acetate) to obtain 4-(acetylamino)-2-methoxy-3-methylphenyl methanesulfonate (154 mg, 79%).

reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-[(2,2-dimethylpropanoyl)amino]-2-methoxy-3-methylphenyl methanesulfonate | 0.707 mmol, 223 mg | CS(=O)(=O)OC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)OC | C14H21NO5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pyridine | 0.848 mmol, 0.069 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.778 mmol, 0.073 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(acetylamino)-2-methoxy-3-methylphenyl methanesulfonate | 154 mg, 79% | CS(=O)(=O)OC1=C(C(=C(C=C1)NC(C)=O)C)OC | C11H15NO5S
